US04738975
To a suspension of potassium salt of 2-mercaptobenzimidazole (1.3 g) and potassium carbonate (1.0 g) in dimethylformamide (15 ml) was added with stirring, a solution of 2-bromomethyl-4-ethoxy-3-methoxy-pyridine (1.6 g) in dimethylformamide (5 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with chloroform (50 ml), washed with water, 1N-sodium hydroxide, and water in this order, dried, and evaporated. The residue was purified by column chromatography on silica gel (chloroform-methanol (50:1)), to give 2-[(4-ethoxy-3-methoxypyrid-2-yl)methylthio]benzimidazole (1.4 g) as a light yellow oil.

reactant | potassium | [K] | K
reactant | 2-mercaptobenzimidazole | 1.3 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-4-ethoxy-3-methoxy-pyridine | 1.6 g | BrCC1=NC=CC(=C1OC)OCC | C9H12BrNO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(4-ethoxy-3-methoxypyrid-2-yl)methylthio]benzimidazole | 1.4 g | C(C)OC1=C(C(=NC=C1)CSC=1NC2=C(N1)C=CC=C2)OC | C16H17N3O2S
